US05622971
2,3-Dihydrobenzofuran-5-carboxaldehyde
To a stirred solution of α,α-dichloromethyl methyl ether (2.15 g, 19 mmol, 1.35 eq) in methylene chloride (30 mL) at -40° C. was added successively stannic chloride (1.65 g, 17 mmol, 1.2 eq) and 15 minutes later, a solution of 2,3-dihydrobenzofuran (1.68 g, 14 mmol) in CH2Cl2 (5 mL) maintaining the temperature at or below -35° C. The mixture was warmed to 0° C., stirred 1 hour, then poured into ice-water, and stirred a further 30 minutes. The mixture was diluted with ether, and the phases separated. The organic phase was concentrated in vacuo, and the residue purified by vacuum distillation to yield the title compound (1.25 g, 60%) as a colorless liquid. b.p. 119°-121° C. at 0.3 mm Hg.

reactant | α,α-dichloromethyl methyl ether | 19 mmol, 2.15 g, 1.35 eq | COC(Cl)Cl | C2H4Cl2O
reactant | 2,3-dihydrobenzofuran | 14 mmol, 1.68 g | O1CCC2=C1C=CC=C2 | C8H8O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 2,3-Dihydrobenzofuran-5-carboxaldehyde | 1.25 g, 60% | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
